US06235740B1
A. 3,5-Dimethyl-4-nitrophenol
The bi-phasic mixture of 3,5-dimethylphenol (25 g, 0.20 mol) and sodium nitrate (17.4 g, 0.20 mol) in a 1:1 mixture of ether-water (800 ml) containing 40 ml of concentrated HCl was vigorously stirred for several hours. n-Bu4NHSO4 (3.4 g, 0.01 mol) and additional conc. HCl (40 ml) were added and stirring continued for 60 hrs. The reaction mixture was extracted with ether (×2). The combined ether extracts were washed with 1.0N HCl, brine and dried over anhydrous Na2SO4. Concentration in vacuo followed by flash chromatography (hexane-EtOAc: 99:1 to 40:60) on silica gel gave, after trituration with hexane, 12.3 g of the title compound of this step as a yellow solid.

reactant | 3,5-dimethylphenol | 0.20 mol, 25 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | sodium nitrate | 0.20 mol, 17.4 g | [N+](=O)([O-])[O-].[Na+]
reactant | HCl | 40 ml | Cl | ClH
reactant | HCl | 40 ml | Cl | ClH
catalyst | n-Bu4NHSO4 | 0.01 mol, 3.4 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
solvent | hexane | CCCCCC | C6H14
product | 3,5-Dimethyl-4-nitrophenol | 12.3 g | CC=1C=C(C=C(C1[N+](=O)[O-])C)O | C8H9NO3
